US08455522B2
Step 2: Synthesis of 5-[5-(Benzylamino-methyl)-pyridin-3-yl]-3-methyl-3H-benzooxazol-2-one
A mixture of 5-(3-Methyl-2-oxo-2,3-dihydro-benzooxazol-5-yl)-pyridine-3-carbaldehyde (100 mg, 0.39 mmol), Benzylamine (46.4 mg, 0.43 mmol), acetic acid (50 uL) and sodium triacetoxyborohydride (25 0 mg, 1.18 mmol) in CH2Cl2 (10 mL) was stirred at room temperature for 2 h. The mixture was quenched with NaHCO3 (saturated solution) and extracted with CH2Cl2 (20 mL×3). The combined extracts were washed with brine and dried over anhydrous Na2SO4. After filtration and concentration, the residue was obtained as yellow solid. ESI-MS m/z: 346.1 [M+1]+, Retention time 1.11 min.

reactant | 5-(3-Methyl-2-oxo-2,3-dihydro-benzooxazol-5-yl)-pyridine-3-carbaldehyde | 0.39 mmol, 100 mg | CN1C(OC2=C1C=C(C=C2)C=2C=C(C=NC2)C=O)=O | C14H10N2O3
reactant | Benzylamine | 0.43 mmol, 46.4 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 50 uL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.18 mmol, 0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-[5-(Benzylamino-methyl)-pyridin-3-yl]-3-methyl-3H-benzooxazol-2-one | C(C1=CC=CC=C1)NCC=1C=C(C=NC1)C=1C=CC2=C(N(C(O2)=O)C)C1 | C21H19N3O2
